US04116956
A mixture of 1.98 parts of 7-chloro-2-(2-enanthylhydrazino)-5-phenyl-3H-1,4-benzodiazepine and 30 parts of polyphosphoric acid is heated at 170° C to 180° C for 2 hours. To the mixture is added 200 parts by volume of ice-water and the resulting solution is neutralized with concentrated aqueous ammonia under ice-cooling, followed by extraction with chloroform. The chloroform layer is washed with water, dried over sodium sulfate and the solvent is evaporated. The residue is recrystallized from aqueous acetone to yield 8-chloro-1-hexyl-6-phenyl-4H-s-triazolo [4,3-a] [1,4] benzodiazepine as colorless plates melting at 75° C to 78° C (sintering).

reactant | 7-chloro-2-(2-enanthylhydrazino)-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NNC(CCCCCC)=O)C2=CC=CC=C2)C1 | C22H25ClN4O
reactant | ammonia | N | H3N
product | 8-chloro-1-hexyl-6-phenyl-4H-s-triazolo [4,3-a] [1,4] benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCCCCC)C3=CC=CC=C3)C1 | C22H23ClN4
